US04739056
N-Cyclohexyl-N-methyl-4-[2-acetamido-3-carboxymethyl-3,4-dihydroquinazolin-6-yl]oxybutyramide hydrochloride (Z=O, R1 =H)
A solution of N-cyclohexyl-N-methyl-4-[2-acetamido-3-tert-butoxycarbonylmethyl-3,4-dihydroquinazolin-6-yl]oxybutyramide in ethyl acetate saturated with hydrogen chloride was stirred for 1 hour at room temperature. The resulting precipate was collected by filtration and dried to afford the title compound as a hygroscopic solid.

reactant | N-cyclohexyl-N-methyl-4-[2-acetamido-3-tert-butoxycarbonylmethyl-3,4-dihydroquinazolin-6-yl]oxybutyramide | C1(CCCCC1)N(C(CCCOC=1C=C2CN(C(=NC2=CC1)NC(C)=O)CC(=O)OC(C)(C)C)=O)C | C27H40N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclohexyl-N-methyl-4-[2-acetamido-3-carboxymethyl-3,4-dihydroquinazolin-6-yl]oxybutyramide hydrochloride | Cl.C1(CCCCC1)N(C(CCCOC=1C=C2CN(C(=NC2=CC1)NC(C)=O)CC(=O)O)=O)C | InChI=1S/C23H32N4O5.ClH/c1-16(28)24-23-25-20-11-10-19(13-17(20)14-27(23)15-22(30)31)32-12-6-9-21(29)26(2)18-7-4-3-5-8-18;/h10-11,13,18H,3-9,12,14-15H2,1-2H3,(H,30,31)(H,24,25,28);1H
